US08304446B2
5-Chloro-N-{1-[(3-cyanophenyl)methyl]-4-fluoro-1H-indazol-3-yl}-2-thiophenesulfonamide
To a solution of 3-[(3-amino-4-fluoro-1H-indazol-1-yl)methyl]benzonitrile (for a preparation see Intermediate 37) (695 mg, 2.61 mmol) in anhydrous pyridine (3 mL) cooled in an ice/water bath was added 5-chloro-2-thiophenesulfonyl chloride (567 mg, 2.61 mmol) dropwise over 1 minute and the reaction mixture was stirred in the ice/water bath for 1 hour. The reaction mixture was partitioned between ethyl acetate (150 mL) and 2N hydrochloric acid (100 mL). The organic layer was separated, passed through a hydrophobic frit and evaporated in-vacuo to yield a dark red oil (1.264 g). The oil was dissolved in the minimum volume of dichloromethane, applied to a 100 g silica SPE cartridge and purified by chromatography on Flashmaster II using a 0-50% ethyl acetate in cyclohexane gradient over 60 min. Fractions 66-69 were combined and evaporated in-vacuo to yield a white foam (540 mg), which was further purified by chromatography on 100 g silica SPE cartridge on Flashmaster II using a 0-10% methanol in dichloromethane gradient over 60 min. Fractions 23-26 were evaporated in-vacuo to yield the title compound as a white foam (493 mg, 42%). LCMS (SystemB) RT=3.01 min, ES+ve m/z 447/449 (M+H)+.

reactant | 3-[(3-amino-4-fluoro-1H-indazol-1-yl)methyl]benzonitrile | NC1=NN(C2=CC=CC(=C12)F)CC=1C=C(C#N)C=CC1 | C15H11FN4
reactant | 5-chloro-2-thiophenesulfonyl chloride | 2.61 mmol, 567 mg | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 5-Chloro-N-{1-[(3-cyanophenyl)methyl]-4-fluoro-1H-indazol-3-yl}-2-thiophenesulfonamide | 1.264 g | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)F)CC1=CC(=CC=C1)C#N | C19H12ClFN4O2S2
